US08114902B2
Diethyl 2-[2-(4-bromo-2-chlorophenyl)ethyl]-2-[(tert-butoxycarbonyl)amino]malonate
Diethyl(tert-butoxycarbonyl)aminomalonate (202 g) was dissolved in a mixed solution of tetrahydrofuran (6000 mL) and N,N-dimethylformamide (714 mL), and sodium tert-butoxide (70.5 g) was added. After heating the mixture to the refluxing temperature, a solution of 2-(4-bromo-2-chlorophenyl)ethyl iodide (246 g) of Reference Example 18 in tetrahydrofuran (940 mL) was added to the reaction mixture, and the mixture was refluxed with stirring for 15 hr. After cooling, the reaction mixture was poured into 25% aqueous citric acid solution. After partitioning and extraction with ethyl acetate, the organic layer was washed with water and 25% brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (227 g) as a pale-yellow oil.

reactant | Diethyl(tert-butoxycarbonyl)aminomalonate | 202 g | C(C)OC(C(C(=O)OCC)NC(=O)OC(C)(C)C)=O | C12H21NO6
reactant | sodium tert-butoxide | 70.5 g | CC(C)([O-])C.[Na+]
reactant | 2-(4-bromo-2-chlorophenyl)ethyl iodide | 246 g | BrC1=CC(=C(C=C1)CCI)Cl | C8H7BrClI
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 6000 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 714 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 940 mL | O1CCCC1 | C4H8O
product | Diethyl 2-[2-(4-bromo-2-chlorophenyl)ethyl]-2-[(tert-butoxycarbonyl)amino]malonate | 227 g | BrC1=CC(=C(C=C1)CCC(C(=O)OCC)(C(=O)OCC)NC(=O)OC(C)(C)C)Cl | C20H27BrClNO6
